US04202684
N-(2-chloroethyl)-carbanilic acid-[3-(methoxycarbonylamino)-phenyl]-ester
A solution of 22.9 g of chloroformic acid-3-methoxycarbonylaminophenylester in 50 ml acetic acid ester is added dropwise together with a solution of 30.5 g potassium carbonate in 150 ml water at a temperature of 10° to 15° C. into a solution of 23 g N-(2-chloroethyl)-aniline hydrochloride in 50 ml water and 50 ml acetic acid ester. During the addition the solutions are stirred. The stirring is then continued for 30 minutes at 15° C. whereupon the organic phase is separated, diluted with about 100 ml acetic acid ester and washed at 0° C. successively with dilute sodium hydroxide, water, dilute hydrochloric acid and again water. After drying on magnesium sulfate the mass is concentrated by evaporation under a reduced pressure. The residue obtained is at first oily but soon crystallizes throughout and is then recrystallized from acetic acid ester/pentane.

reactant | chloroformic acid-3-methoxycarbonylaminophenylester | 22.9 g | COC(=O)NC=1C=C(C=CC1)OC(=O)Cl | C9H8ClNO4
reactant | potassium carbonate | 30.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-(2-chloroethyl)-aniline hydrochloride | 23 g | Cl.ClCCNC1=CC=CC=C1
solvent | water | 150 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | N-(2-chloroethyl)-carbanilic acid-[3-(methoxycarbonylamino)-phenyl]-ester | COC(=O)NC=1C=C(C=CC1)OC(N(C1=CC=CC=C1)CCCl)=O | C17H17ClN2O4
